US04017510
A solution of 130.1 g (0.5 mole) of α-isopropyl-α-methyl-1,3-dioxo-2-isoindolineacetamide in 650 ml toluene is heated with vigorous stirring under a Dean-Stark water separator in order to remove traces of water. The solution was cooled to 100° C and 2.0 g sodium hydroxide in the form of pels is added and the mixture rapidly heated to reflux. Water collects in the water separator. One-half hour after the addition of the sodium hydroxide, a further 2 g is added and heating is continued for a further 11/4 hours when no further water is removed from the reaction mixture and the infrared spectrum of an aliquot indicates the reaction to be complete. The reaction mixture is cooled to room temperature, filtered and the solids washed with toluene and the toluene removed in vacuo to leave a white solid which is transferred to a filter funnel with hexane and air-dried to give 98.7 g of 3-isopropyl-3-methyl-3H-imidazo[2,1-a]isoindole-2,5-dione, melting point 93°-96° C. The product may be purified by recrystallization from hexane to give an analytically pure sample, melting point 98°-100.5° C.

reactant | α-isopropyl-α-methyl-1,3-dioxo-2-isoindolineacetamide | 0.5 mole, 130.1 g | C(C)(C)C(C(=O)N)(N1C(C2=CC=CC=C2C1=O)=O)C | C14H16N2O3
reactant | water | O | H2O
reactant | hexane | CCCCCC | C6H14
solvent | toluene | 650 ml | C1(=CC=CC=C1)C | C7H8
product | 3-isopropyl-3-methyl-3H-imidazo[2,1-a]isoindole-2,5-dione | 98.7 g | C(C)(C)C1(C(N=C2N1C(C1=CC=CC=C21)=O)=O)C | C14H14N2O2
